US04198424
2-dimethylamino-1-methyl-1-pyrrolinium methyl sulfate
22.5 g of 2-methoxy-1-methyl-1-pyrrolinium methyl sulfate are added dropwise (with stirring) to a solution of 6.76 g of dimethylamine in 45 ml of benzene. The resulting admixture is subsequently boiled under reflux for 1 hour. The obtained heavy phase is separated off, extracted twice by shaking with diethyl ether and freed from solvent residues in a vacuum. 19.4 g (81.4% of theory) of the title compound (as a red-brown oil) are thus obtained.

reactant | 2-methoxy-1-methyl-1-pyrrolinium methyl sulfate | 22.5 g | COS(=O)(=O)[O-].COC1=[N+](CCC1)C
reactant | dimethylamine | 6.76 g | CNC | C2H7N
solvent | benzene | 45 ml | C1=CC=CC=C1 | C6H6
product | 2-dimethylamino-1-methyl-1-pyrrolinium methyl sulfate | COS(=O)(=O)[O-].CN(C1=[N+](CCC1)C)C | InChI=1S/C7H15N2.CH4O4S/c1-8(2)7-5-4-6-9(7)3;1-5-6(2,3)4/h4-6H2,1-3H3;1H3,(H,2,3,4)/q+1;/p-1
